US05104443
2-Ethoxyphenoxysulfonyl isocyanate
67.9 g (0.48 mol) of chlorosulfonyl isocyanate are added dropwise at 25° C. to a solution of 55.2 g (0.4 mol) of 2-ethoxyphenol in 500 ml of xylene. When the dropwise addition is complete, the temperature is increased slowly to 140° C. and the mixture is refluxed for 2.5 hours. The mixture is cooled, and the solvent as well as excess chlorosulfonyl isocyanate are removed on a rotary evaporator. The yellow oil which remains (97.2 g=100% of theory) is employed without further purification.

reactant | chlorosulfonyl isocyanate | 0.48 mol, 67.9 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 2-ethoxyphenol | 0.4 mol, 55.2 g | C(C)OC1=C(C=CC=C1)O | C8H10O2
solvent | xylene | 500 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-Ethoxyphenoxysulfonyl isocyanate | C(C)OC1=C(OS(=O)(=O)N=C=O)C=CC=C1 | C9H9NO5S
